US06414144B1
C. (2S)-2-(Hydroxymethyl)-2,3,8,9,10,10a-Hexahydro-7bH-Cyclopenta[b][1,4]-Diazepino[6,7,1-hi]Indole-1,4-Dione
Following the procedure of method 1E, (2S)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]-3-hydroxypropanoic acid (1.5 mmol, 430 mg) was cyclized by refluxing in acetic acid (40 mL). Purification by flash chromatography through silica gel (elution with 5% methanol-chloroform) provided each diastereomer: less polar product (0.55 mmol, 0.15 g, 37%) arbitrarily assigned as the R,R configuration and more polar product (0.26 mmol, 0.070 g, 17%) assigned as the S,S configuration.

reactant | (2S)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]-3-hydroxypropanoic acid | 1.5 mmol, 430 mg | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@H](C(=O)O)CO | C15H18N2O4
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | (2S)-2-(Hydroxymethyl)-2,3,8,9,10,10a-Hexahydro-7bH-Cyclopenta[b][1,4]-Diazepino[6,7,1-hi]Indole-1,4-Dione | OC[C@H]1C(N2C3C(C4=CC=CC(=C24)C(N1)=O)CCC3)=O | C15H16N2O3
